US09062013B2
trans-N-(2-methoxypyridin-3-yl)-2,2-dimethyl-3-phenylcyclopropanecarboxamide
2,2-Dimethyl-trans-3-phenylcyclopropanecarboxylic acid (400 mg, 2.1 mmol) and 2-methoxy-3-pyridinamine (261 mg, 2.1 mmol) were reacted as described under General Procedure D to furnish the title compound (550 mg, 88%) as a white solid. 1H NMR (300 MHz, CDCl3) δ 8.69-8.64 (m, 1H), 7.90 (s, 1H), 7.85-7.83 (m, 1H), 7.32-7.19 (m, 5H), 6.92-6.88 (m, 1H), 4.06 (s, 3H), 2.84 (d, J=5.7 Hz, 1H), 1.90 (d, J=5.7 Hz, 1H), 1.41 (s, 3H), 0.98 (s, 3H). mp 152-154° C. ESIMS m/z [M+H]+ 297.2.

reactant | 2,2-Dimethyl-trans-3-phenylcyclopropanecarboxylic acid | 2.1 mmol, 400 mg | CC1([C@H]([C@@H]1C1=CC=CC=C1)C(=O)O)C | C12H14O2
reactant | 2-methoxy-3-pyridinamine | 2.1 mmol, 261 mg | COC1=NC=CC=C1N | C6H8N2O
product | trans-N-(2-methoxypyridin-3-yl)-2,2-dimethyl-3-phenylcyclopropanecarboxamide | 550 mg, 88% | COC1=NC=CC=C1NC(=O)[C@@H]1C([C@H]1C1=CC=CC=C1)(C)C | C18H20N2O2
